* C:\Users\dmima\Desktop\SpaceCraft\LRC Time Dependant\LRC Time Dependant.asc
R1 N2 N1 600
L1 N2 N3 15.24E-3
C1 N3 0 119.37E-9
L2 N3 N4 61.86E-3
C2 N4 0 155.12E-9
R2 N4 0 1200
V1 N1 0 PULSE(0 1 500e-9 1e-12 1e-12 1 2)
.ac oct 100 1000 100000
.backanno
.end
